US05053514
To a suspension of 6-(3-methylamino-2-hydroxypropoxy)carbostyril (0.7 g) in ethanol (10 ml) is added phenylisothiocyanate (0.35 ml) at room temperature, and the mixture is stirred at the same temperature for 1 hour. The insoluble product is collected by filtration and recrystallized from chloroform-methanol to give 6-[3-(1-methyl-3-phenylthioureido)-2-hydroxypropoxy]carbostyril (0.83 g), as white powder, m.p. 185.0°-186.5° C. (decomp.).

reactant | 6-(3-methylamino-2-hydroxypropoxy)carbostyril | 0.7 g | CNCC(COC=1C=C2C=CC(NC2=CC1)=O)O | C13H16N2O3
reactant | phenylisothiocyanate | 0.35 ml | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-[3-(1-methyl-3-phenylthioureido)-2-hydroxypropoxy]carbostyril | 0.83 g | CN(C(=S)NC1=CC=CC=C1)CC(COC=1C=C2C=CC(NC2=CC1)=O)O | C20H21N3O3S
